US04486428
dl-Butyl 3-[4-(2-hydroxyethyl)-5-hydroxy-1,2-dimethyl-1,2,3,4-tetrahydroquinolin-7-yl]propyl sulfoxide
Equimolar amounts of m-chloroperbenzoic acid and dl-4-(2-hydroxyethyl)-5-hydroxy-1,2-dimethyl-7-(4-thiaoctyl)-1,2,3,4-tetrahydroquinoline are added to a mixture of chloroform and acetic acid (2:1 v/v) and the mixture stirred at room temperature for one hour. The mixture is washed with water, the organic phase dried (MgSO4) and evaporated to dryness at reduced pressure to afford the title compound.

reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-(2-hydroxyethyl)-5-hydroxy-1,2-dimethyl-7-(4-thiaoctyl)-1,2,3,4-tetrahydroquinoline | OCCC1CC(N(C2=CC(=CC(=C12)O)CCCSCCCC)C)C | C20H33NO2S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Butyl 3-[4-(2-hydroxyethyl)-5-hydroxy-1,2-dimethyl-1,2,3,4-tetrahydroquinolin-7-yl]propyl sulfoxide | OCCC1CC(N(C2=CC(=CC(=C12)O)CCCS(=O)CCCC)C)C | C20H33NO3S
